US04788196
N-{4-[4-(4-Pyridyl)piperazin-1-yl]phenyl}acetamide
A solution of 1-(4-aminophenyl)-4-(4-pyridyl)piperazine (0.33 g) in a mixture of dichloromethane (20 ml) and acetic anhydride (1.5 ml) was allowed to stand overnight and then evaporated. The residue was triturated with 50 ml of 10% sodium carbonate solution, and then the mixture was diluted to 100 ml with water and extracted several times with chloroform. The combined extracts were dried over sodium sulphate, evaporated and the residue crystallised from ethanol to give the title compound (0.15 g), m.p. 244°-247° C. Found: C,68.82; H,6.67; N,18.69. C17H20N4O requires: C,68.89; H,6.80; N,18.91%.

reactant | 1-(4-aminophenyl)-4-(4-pyridyl)piperazine | 0.33 g | NC1=CC=C(C=C1)N1CCN(CC1)C1=CC=NC=C1 | C15H18N4
reactant | acetic anhydride | 1.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-{4-[4-(4-Pyridyl)piperazin-1-yl]phenyl}acetamide | 0.15 g | N1=CC=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)NC(C)=O | C17H20N4O
